US08461157B2
A mixture of the product 5-bromo-2-(2-bromoethoxy)benzenamine (250 mg, 0.848 mmol) and K2CO3 (234 mg, 1.695 mmol) in DMF (5 mL) was stirred at 60° C. for 4 h. The mixture was diluted with water (100 mL) and extracted with ethyl acetate (100 mL). The organic layer was washed with water (3×50 mL) and brine (50 mL), concentrated to give 6-bromo-3,4-dihydro-2H-benzo[b][1,4]oxazine (170 mg, 94%) as a yellow oil. LCMS: 214 [M+1]+. 1H NMR (400 MHz, DMSO-d6) δ 3.26 (m, 2H), 4.08 (t, J=4.8 Hz, 2H), 6.06 (s, 1H), 6.56 (m, 2H), 6.69 (d, J=1.6 Hz, 1H).

reactant | 5-bromo-2-(2-bromoethoxy)benzenamine | 0.848 mmol, 250 mg | BrC=1C=CC(=C(C1)N)OCCBr | C8H9Br2NO
reactant | K2CO3 | 1.695 mmol, 234 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | 6-bromo-3,4-dihydro-2H-benzo[b][1,4]oxazine | 170 mg, 94% | BrC1=CC2=C(OCCN2)C=C1 | C8H8BrNO
